US03987053
EXAMPLE 16: 1-Methyl-5-[1-(2-hydroxyethyl)-5-ethyl-2-imidazolyl]iminomethyl-2-nitroimidazole
To a solution of 0.4 g. of 1-methyl-2-nitro-5-imidazolecarboxaldehyde dissolved in 25 ml. of ethanol, 0.494 g. of 1-(2-hydroxyethyl)-2-amino-5-ethylimidazole hydrochloride and 0.175 ml. of sodium ethoxide in 2.89 ml. of ethanol are added. After standing overnight, the solid which precipitates is collected on the filter and washed with water. Yield: 0.269 g., m.p. 185°-187° C.

reactant | 1-methyl-2-nitro-5-imidazolecarboxaldehyde | CN1C(=NC=C1C=O)[N+](=O)[O-] | C5H5N3O3
reactant | 1-(2-hydroxyethyl)-2-amino-5-ethylimidazole hydrochloride | Cl.OCCN1C(=NC=C1CC)N
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 1-Methyl-5-[1-(2-hydroxyethyl)-5-ethyl-2-imidazolyl]iminomethyl-2-nitroimidazole | CN1C(=NC=C1C=NC=1N(C(=CN1)CC)CCO)[N+](=O)[O-] | C12H16N6O3
